US05476846
a) 1-(Phenylmethyl)cyclopropanecarbonitrile
To a mixture under nitrogen of 26.3 g (260 mmoles) of diisopropylamine and 300 ml of tetrahydrofuran cooled to -75° C., there is added dropwise 125 ml (200 mmoles) of n-butyllithium in a 1.6M hexane solution, then 13.4 g (200 mmoles) of commercial cyclopropanecarbonitrile and finally 25.3 g (200 mmoles) of benzyl chloride. The reaction mixture is stirred 2 hours at -70° C. then 2 days at 20° C. 4 ml of water is added, before washing the reaction mixture with water saturated with NaCl. The organic phase dried over Na2SO4 is concentrated to give a brown liquid, which is purified by distillation. There is obtained 16.8 g (yield=53.5%) of a colorless liquid. b.p.13 =140°-8° C.

reactant | diisopropylamine | 260 mmoles, 26.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 200 mmoles, 125 ml | C(CCC)[Li]
reactant | cyclopropanecarbonitrile | 200 mmoles, 13.4 g | C1(CC1)C#N | C4H5N
reactant | benzyl chloride | 200 mmoles, 25.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 4 ml | O | H2O
solvent | hexane | 1.6M | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-(Phenylmethyl)cyclopropanecarbonitrile | 16.8 g, yield=53.5% | C1(=CC=CC=C1)CC1(CC1)C#N | C11H11N
